US04031088
The acid chloride (16.23 g.) prepared from 3-amino-5-(N-methylacetamido)-2,4,6-triiodobenzoic acid and thionyl chloride was interacted with 60 ml. of dimethylamine (40% in water), 20 ml. of 35% aqueous sodium hydroxide and 30 ml. of water. The product was isolated and recrystallized from isopropyl alcohol to give 3-amino-2,4,6-triiodo-5-(N-methylacetamido)N,N-dimethylbenzamide as a pale yellow solid, m.p. 235°-240° C.

reactant | 3-amino-5-(N-methylacetamido)-2,4,6-triiodobenzoic acid | NC=1C(=C(C(=O)O)C(=C(C1I)N(C(C)=O)C)I)I | C10H9I3N2O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | CNC | C2H7N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-amino-2,4,6-triiodo-5-(N-methylacetamido)N,N-dimethylbenzamide | NC=1C(=C(C(=O)N(C)C)C(=C(C1I)N(C(C)=O)C)I)I | C12H14I3N3O2
